US07217838B2
Diethyl 2-(3-(ethoxycarbonyl)-2,3-dihydrothiazol-2-yl)malonate
Ethyl chloroformate (6.46 ml, 67.8 mmoles) was added dropwise to a stirred solution of thiazole (5.0 g, 58.7 mmoles) in tetrahydrofuran (113.0 ml) at about 0° C. under a nitrogen atmosphere. After about 1 hour, a freshly prepared solution of lithio diethylmalonate (To a solution of diethylmalonate (10.3 ml, 67.8 mmoles) in tetrahydrofuran (17.0 ml) was added dropwise a 1 M solution of lithium bis(trimethylsilyl)amide in tetrahydrofuran (67.8 ml, 67.8 mmoles) and the mixture was stirred at 23° C. for about 10 min) was added via cannula and the mixture was stirred at room temperature for about 18 hours. The mixture was diluted with diethyl ether (60.0 ml), was washed with saturated aqueous ammonium chloride (140.0 ml) and brine (120.0 ml). The organic layer was dried over MgSO4, filtered, concentrated in vacuum and the crude product was purified by flash column chromatography on silica gel using hexanes/ethyl acetate (2:1) as the mobile phase to provide the title compound.

reactant | Ethyl chloroformate | 67.8 mmoles, 6.46 ml | ClC(=O)OCC | C3H5ClO2
reactant | thiazole | 58.7 mmoles, 5.0 g | S1C=NC=C1 | C3H3NS
reactant | lithio diethylmalonate | C(C)C(C(=O)O[Li])(C(=O)[O-])CC
reactant | diethylmalonate | 67.8 mmoles, 10.3 ml | C(C)C(C(=O)[O-])(C(=O)[O-])CC
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | tetrahydrofuran | 113.0 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 17.0 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 67.8 mmoles, 67.8 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 60.0 ml | C(C)OCC | C4H10O
product | Diethyl 2-(3-(ethoxycarbonyl)-2,3-dihydrothiazol-2-yl)malonate | C(C)OC(=O)N1C(SC=C1)C(C(=O)OCC)C(=O)OCC | C13H19NO6S
